US04840953
Preparation of 3-ethoxycarbonyl-9-[(4-n-butoxybenzoyl)thio]-4H-pyrido[1,2-a]pyrimidin-4-one Ie-27.
To a mixture of 0.8 g of 3-ethoxycarbonyl-9-mercapto-4H-pyrido[1,2-a]pyrimidin-4-one II-1, 0.5 g of powdery potassium carbonate and 25 ml of acetone is added 0.7 g of 4-n-butoxybenzoyl chloride with stirring, and the resultant mixture is stirred at room temperature for 2 hours. The resultant precipitate is filtered and distributed in water-chloroform. The chloroform layer is washed with saturated brine, dried over sodium sulfate and concentrated. The residue (1.1 g) is chromatographed on a column of silica gel, eluting with ethyl acetate. Concentration of the eluate affords 0.7 g of the titled compound.

reactant | 3-ethoxycarbonyl-9-mercapto-4H-pyrido[1,2-a]pyrimidin-4-one | 0.8 g | C(C)OC(=O)C1=CN=C2N(C1=O)C=CC=C2S | C11H10N2O3S
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-n-butoxybenzoyl chloride | 0.7 g | C(CCC)OC1=CC=C(C(=O)Cl)C=C1 | C11H13ClO2
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 3-ethoxycarbonyl-9-[(4-n-butoxybenzoyl)thio]-4H-pyrido[1,2-a]pyrimidin-4-one | 0.7 g, Yield: 51% | C(C)OC(=O)C1=CN=C2N(C1=O)C=CC=C2SC(C2=CC=C(C=C2)OCCCC)=O | C22H22N2O5S
